US04205085
3-{4-[15-(Trifluoromethyl)pentadecylamino]benzoyl}-2,4-pentanedione
A solution of 28.4 g. of 2,4-pentanedione and 20 ml. of 1,2-dimethoxyethane is added to a suspension of 13.6 g. of sodium hydride in 220 ml. of 1,2-dimethoxyethane under argon. A solution of 28.7 g. of 4-[15-(trifluoromethyl)pentadecylamino]benzoyl chloride hydrochloride in 1,2-dimethoxyethane is then added. The reaction mixture is stirred at room temperature for 12 hours, cooled, poured on ice-and extracted with ether. The ether solution is washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated. The residue is then chromatographed over silica gel to yield the product as a white solid.

reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-[15-(trifluoromethyl)pentadecylamino]benzoyl chloride hydrochloride | Cl.FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1)(F)F
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 3-{4-[15-(Trifluoromethyl)pentadecylamino]benzoyl}-2,4-pentanedione | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)C(C(C)=O)C(C)=O)C=C1)(F)F | C28H42F3NO3
